US08835627B2
3-chloro-N-{[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}-N-methyl-1-propanamine
To a mixture of 3-[{[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}(methyl)-amino]-1-propanol (20.8 g, 78.4 mmoles) and triethylamine (11 mL, 78.9 mmoles) in 200 mL of dichloromethane add, at ambient temperature, 8.65 mL of thionyl chloride (157 mmoles). After being in contact for 3 hours at 40° C., hydrolyse the mixture using 150 mL of water and 30 mL of aqueous 1N NaOH solution. Adjust the pH of the aqueous phase to 10 using aqueous 10N NaOH solution and extract with 50 mL of dichloromethane. Combine the organic phases and wash them with saturated aqueous Na2CO3 solution (100 mL), dry them over MgSO4 and carry out drying in vacuo to obtain 19.8 g of a brown oil corresponding to the title compound.

reactant | 3-[{[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}(methyl)-amino]-1-propanol | 78.4 mmoles, 20.8 g | COC=1C=C2C[C@@H](C2=CC1OC)CN(CCCO)C | C15H23NO3
reactant | triethylamine | 78.9 mmoles, 11 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 157 mmoles, 8.65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 1N | [OH-].[Na+]
reactant | NaOH | 10N | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 3-chloro-N-{[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}-N-methyl-1-propanamine | 19.8 g, Yield: 89% | ClCCCN(C)C[C@@H]1C2=CC(=C(C=C2C1)OC)OC | C15H22ClNO2
